US07858623B2
In a 25 mL round bottom flask was dissolved N-(4-(hydroxy(7-methoxyquinolin-4-yl)methyl)phenyl)-5-methyl-3-oxo-2-phenyl-1-propyl-2,3-dihydro-1H-pyrazole-4-carboxamide (104 mg, 199 μmol) in 4 mL of formic acid and the resultant was then treated with zinc dust (325 mg, 4975 μmol) and heated at 60° C. After 6 h the reaction mixture was diluted with ethyl acetate, filtered over Celite and neutralized with aqueous NaHCO3 (sat.). The aqueous phase was extracted with ethyl acetate, and then the organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude mixture was purified by MPLC (ISCO, dichloromethane: 1% NH4OH in MeOH, 100:0 to 90:10) to afford N-(4-((7-methoxyquinolin-4-yl)methyl)phenyl)-5-methyl-3-oxo-2-phenyl-1-propyl-2,3-dihydro-1H-pyrazole-4-carboxamide (25 mg, 25% yield) as an off-white solid. MS (ESI pos. ion) m/z: 507 (MH+). Calc'd exact mass for C31H30N4O3: 506. 1H NMR (400 MHz, DMSO-d6) 10.65 (s, 1H), 8.74 (d, J=4.42 Hz, 1H), 8.10 (d, J=9.22 Hz, 1H), 7.57 (t, J=7.52 Hz, 2H), 7.46-7.52 (m, 3H), 7.35-7.44 (m, 3H), 7.14-7.28 (m, 4H), 4.38 (s, 2H), 3.90 (s, 3H), 3.79 (t, J=7.14 Hz, 2H), 2.72 (s, 3H), 1.32-1.41 (m, 2H), 0.66 (t, J=7.39 Hz, 3H).

reactant | N-(4-(hydroxy(7-methoxyquinolin-4-yl)methyl)phenyl)-5-methyl-3-oxo-2-phenyl-1-propyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 199 μmol, 104 mg | OC(C1=CC=C(C=C1)NC(=O)C=1C(N(N(C1C)CCC)C1=CC=CC=C1)=O)C1=CC=NC2=CC(=CC=C12)OC | C31H30N4O4
solvent | formic acid | 4 mL | C(=O)O | CH2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 4975 μmol, 325 mg | [Zn] | Zn
product | N-(4-((7-methoxyquinolin-4-yl)methyl)phenyl)-5-methyl-3-oxo-2-phenyl-1-propyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 25 mg, 25% yield | COC1=CC=C2C(=CC=NC2=C1)CC1=CC=C(C=C1)NC(=O)C=1C(N(N(C1C)CCC)C1=CC=CC=C1)=O | C31H30N4O3
